US07196111B2
A solution of 50 mg (0.138 mmol) of 6-(4-benzyloxy-phenyl)-7-chloro-pyrazolo[1,5-a]pyrimidine-3-carbonitrile in 2 mL of dimethylformamide in a 5 mL microwave vessel, was added 25 mg (0.18 mmol) of potassium carbonate, followed by 15 mg (0.166 mmol) of morpholine, and the mixture was heated in a microwave synthesizer (Emrys system from Personal Chemistry, 300 W) at 160° C. for 5 min. Since analysis by LC-MS indicated product formation, the reaction mixture was diluted with ethyl acetate, washed with brine (2 times), dried over sodium sulfate and concentrated to give a residue which was purified via reverse-phase chromatography using Gilson to afford (after lyophilization) desired 6-(4-benzyloxy-phenyl)-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidine-3-carbonitrile (90% purity) as indicated by 1H NMR; LC-MS—calcd for C24H21N5O2 [M++H]+: 412.17, found: 412.1.

reactant | 6-(4-benzyloxy-phenyl)-7-chloro-pyrazolo[1,5-a]pyrimidine-3-carbonitrile | 0.138 mmol, 50 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1C=NC=2N(C1Cl)N=CC2C#N | C20H13ClN4O
reactant | potassium carbonate | 0.18 mmol, 25 mg | C([O-])([O-])=O.[K+].[K+]
reactant | morpholine | 0.166 mmol, 15 mg | N1CCOCC1 | C4H9NO
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-(4-benzyloxy-phenyl)-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidine-3-carbonitrile | 90% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1C=NC=2N(C1N1CCOCC1)N=CC2C#N | C24H21N5O2
